US07517996B2
(Step B-4) Synthesis of methyl 3-(4-chloromethylphenyl)isoxazole-4-carboxylate
N-Hydroxy-4-chloromethylbenzenecarboxyimidoyl chloride (15.27 g, 74.82 mmol) was dissolved in dichloromethane (300 ml), methyl 3-methoxyacrylate (10.43 g, 89.82 mmol) was added, and triethylamine (21 ml, 151 mmol) was slowly added dropwise. The mixture was stirred overnight at room temperature. Water was added, and the mixture was extracted with dichloromethane. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude product was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to give the title compound (9.67 g, 51%).

reactant | N-Hydroxy-4-chloromethylbenzenecarboxyimidoyl chloride | 74.82 mmol, 15.27 g | C1=CC(=CC=C1CCl)/C(=N\O)/Cl | C8H7Cl2NO
reactant | methyl 3-methoxyacrylate | 89.82 mmol, 10.43 g | COC=CC(=O)OC | C5H8O3
reactant | triethylamine | 151 mmol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | methyl 3-(4-chloromethylphenyl)isoxazole-4-carboxylate | 9.67 g, 51% | ClCC1=CC=C(C=C1)C1=NOC=C1C(=O)OC | C12H10ClNO3
